US07498353B2
Diethyl 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonate (Cpd. No. 1, 50 mg, 0.09 mmol) was dissolved in anhydrous methylene chloride (1 mL). Bromotrimethylsilane (750 μL, 5.7 mmol) was added and the mixture was stirred for 4 h whereupon the LC-MS confirmed the starting material was consumed. The solvent was removed under reduced pressure. The resulting residue was dissolved in methanol:water (1:1, 3 mL) and shaken for 30 min. The mixture was filtered over a pad of Celite. The Celite was washed with ethyl acetate. The combined filtrates were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonic acid (Cpd. No. 2) as a white solid. 1H NMR (DMSO-d6): 8.02 (m, 2H), 7.69-7.56 (m, 5H), 7.38 (s, 1H), 6.33 (s, 1H), 3.86 (m, 2H), 1.83 ppm (m, 1H). MW=524 confirmed by LC-MS, tr=11.24 min (Method Y) MH+=522-526.

reactant | Diethyl 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonate | ClC(C(=O)N(C1=CC(=CC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)CCP(OCC)(OCC)=O)Cl | C23H23Cl4N2O5P
reactant | Bromotrimethylsilane | 5.7 mmol, 750 μL | Br[Si](C)(C)C | C3H9BrSi
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonic acid | ClC(C(=O)N(C1=CC(=CC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)CCP(O)(O)=O)Cl | C19H15Cl4N2O5P
